US07576091B2
(2-Methyl-4,5-dihydro-thiazolo[4,5-h]quinazolin-8-yl)-phenyl-amine
A mixture of 2-methyl-6-morpholin-4-ylmethylene-5,6-dihydro-4H-benzothiazol-7-one (300 mg, 1.1 mmol), N-phenyl-guanidine nitrate (449 mg, 2.3 mmol), NaOH (109 mg, 2.7 mmol) and 2-methoxyethanol (5 mL) was heated at 100° C. for 8 h. The reaction mixture was concentrated under vacuum. Flash column chromatography (20% EtOAc hexane) followed by crystallisation from EtOH afforded the title product as a white solid (154 mg, 46%): mp 223-224° C. Anal. RP-HPLC: tR 17.1 min (0-60% MeCN, purity 100%). 1H-NMR (CDCl3): δ 8.19 (s, 1H, Py-H), 7.64 (d, 2H, J 7.4, Ph-H), 7.33 (t, 2H, J 7.4, Ph-H), 7.27 (brs, 1H, NH), 7.02 (t, 1H, J 7.4, Ph-H), 3.02 (m, 4H, CH2—CH2), 2.76 (s, 3H, CH3). 13C-NMR (CDCl3): δ 169.47, 159.20, 159.10, 157.05, 155.22, 139.82, 128.96, 128.84, 122.22, 118.89, 116.57, 25.38, 24.03, 19.93. MS (ESI+): m/z 295.08 (M+H)+.

reactant | 2-methyl-6-morpholin-4-ylmethylene-5,6-dihydro-4H-benzothiazol-7-one | 1.1 mmol, 300 mg | CC=1SC2=C(N1)CCC(C2=O)=CN2CCOCC2 | C13H16N2O2S
reactant | N-phenyl-guanidine nitrate | 2.3 mmol, 449 mg | [N+](=O)(O)[O-].C1(=CC=CC=C1)NC(=N)N
reactant | NaOH | 2.7 mmol, 109 mg | [OH-].[Na+]
solvent | 2-methoxyethanol | 5 mL | COCCO | C3H8O2
product | (2-Methyl-4,5-dihydro-thiazolo[4,5-h]quinazolin-8-yl)-phenyl-amine | 154 mg, 46% | CC=1SC2=C(CCC=3C=NC(=NC23)NC2=CC=CC=C2)N1 | C16H14N4S
